***
*** Generated for: eldoD
*** Generated on: Mar 31 12:15:45 2025
*** Design library name: current_sources
*** Design cell name: pmos_cs_symbol
*** Design view name: schematic
.GLOBAL
.PARAM PMOS_CS_W=6u
.PARAM PMOS_CS_VDD=3.3
.PARAM PMOS_CS_V_BIAS=1.7
.PARAM LOW_NOISE_OPTION=0
.PARAM FORM=0
.LIB /cao/DK/ST/HCMOS9A_10.9/Addon_NVM_H9A@2018.4.1/tools/eldo/model_oxram/OxRRAM.lib OxRRAM_TT
.LIB /home/filip/CMOS130/corners.eldo 

*** Library name: current_sources
*** Cell name: pmos_cs
*** View name: schematic
.SUBCKT PMOS_CS GROUND INOUTPUT_PMOS_CS
    V20 NET4 GROUND DC PMOS_CS_V_BIAS
    V21 NET2 GROUND DC PMOS_CS_VDD
XM16 INOUTPUT_PMOS_CS NET4 NET2 NET2 EP5V0_BS3JU w=PMOS_CS_W l=2e-06
+nfing=1 ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1
+dvt_mdev=0 dmu_mdev=0 soa=1 lpe=0
.ENDS
*** End of subcircuit definition.

*** Library name: current_sources
*** Cell name: pmos_cs_symbol
*** View name: schematic
XI0 NET01 NET1 PMOS_CS
.OP
.DC
.PROBE V
.END