***
*** Generated for: eldoD
*** Generated on: Mar 31 11:35:41 2025
*** Design library name: current_sources
*** Design cell name: nmos_self_biased_cs_symbol
*** Design view name: schematic
.GLOBAL
.PARAM NMOS_SELF_BIASED_CAP=5n
.PARAM NMOS_SELF_BIASED_CS_W_CS=3.5u
.PARAM NMOS_SELF_BIASED_CS_W_CASCODE=3.5u
.PARAM NMOS_SELF_BIASED_CS_R_BIAS2=1MEG
.PARAM NMOS_SELF_BIASED_CS_R_BIAS1=330k
.PARAM NMOS_SELF_BIASED_CS_BIAS_CASCODE=2
.PARAM LOW_NOISE_OPTION=0
.PARAM FORM=0
.LIB /cao/DK/ST/HCMOS9A_10.9/Addon_NVM_H9A@2018.4.1/tools/eldo/model_oxram/OxRRAM.lib OxRRAM_TT
.LIB /home/filip/CMOS130/corners.eldo 

*** Library name: current_sources
*** Cell name: nmos_self_biased_cs
*** View name: schematic
.SUBCKT NMOS_SELF_BIASED_CS GROUND INOUTPUT_SELF_BIASED_CS
XM17 GROUND NET07 NET7 GROUND EN5V0_BS3JU w=NMOS_SELF_BIASED_CS_W_CS
+l=1e-06 nfing=1 ncrsd=1 number=1 srcefirst=1 ngcon=1 mismatch=1 po2act=-1
+dvt_mdev=0 dmu_mdev=0 soa=1 lpe=0
XM7 NET7 NET10 INOUTPUT_SELF_BIASED_CS NET7 EN5V0_BS3JU
+w=NMOS_SELF_BIASED_CS_W_CASCODE l=1.5e-06 nfing=1 ncrsd=1 number=1
+srcefirst=1 ngcon=1 mismatch=1 po2act=-1 dvt_mdev=0 dmu_mdev=0 soa=1
+lpe=0
    R3 INOUTPUT_SELF_BIASED_CS NET07 NMOS_SELF_BIASED_CS_R_BIAS1
    R2 NET07 GROUND NMOS_SELF_BIASED_CS_R_BIAS2
    V15 NET10 0 DC NMOS_SELF_BIASED_CS_BIAS_CASCODE
    C0 NET07 GROUND NMOS_SELF_BIASED_CAP
.ENDS
*** End of subcircuit definition.

*** Library name: current_sources
*** Cell name: nmos_self_biased_cs_symbol
*** View name: schematic
XI0 NET01 NET2 NMOS_SELF_BIASED_CS
.PROBE V
.END